US05659052
100.26 g (0.35 mol) of methyl 16-hydroxyhexadecanoate, 0.60 g (3.5 mol) of p-toluenesulfonic acid and 350 ml of dichloromethane were introduced into a 1-1 flask equipped with a stirrer and a dropping funnel and 32.39 g (0.385 mol) of dihydropyan was dropped thereto under stirring at 0° C. After the completion of the addition, the mixture was stirred at room temperature for additional 1 hour to thereby complete the reaction. Next, the reaction mixture was neutralized by adding 0.59 g (7 mmol) of NaHCO3 and filtered. After distilling off the solvent, crude methyl 16-(2-tetrahydropyranyloxy)hexadecanoate (III-a) was obtained.

reactant | methyl 16-hydroxyhexadecanoate | 0.35 mol, 100.26 g | OCCCCCCCCCCCCCCCC(=O)OC | C17H34O3
reactant | p-toluenesulfonic acid | 3.5 mol, 0.60 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | NaHCO3 | 7 mmol, 0.59 g | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 350 ml | ClCCl | CH2Cl2
product | methyl 16-(2-tetrahydropyranyloxy)hexadecanoate | O1C(CCCC1)OCCCCCCCCCCCCCCCC(=O)OC | C22H42O4
